US07311948B2
A: 4-Hydroxy-benzoic acid ethoxymethyl ester (11)
36.7 ml (0.26 mole) Of triethylamine were added under a nitrogen atmosphere to a solution of 36.1 g (0.26 mole) of 4-hydroxybenzoic acid in 200 ml of dichloromethane. The mixture was cooled in an ice-water bath, and 24.5 ml (0.26 mole) of chloromethyl ethyl ether in 100 ml of dichloromethane were added dropwise.

reactant | triethylamine | 0.26 mole, 36.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxybenzoic acid | 0.26 mole, 36.1 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | chloromethyl ethyl ether | 0.26 mole, 24.5 ml | C(C)OCCl | C3H7ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Hydroxy-benzoic acid ethoxymethyl ester | C(C)OCOC(C1=CC=C(C=C1)O)=O | C10H12O4
